US05318992
Mix 2-(N-t-butyloxycarbonylamino)-5-(O-benzyloxy)-3-pentenoic acid, t-butyl ester (2.0 g, 5.3 mmol) and 10% palladium/carbon (0.5 g) in 95% ethanol (40 mL). Hydrogenate at room temperature at atmospheric pressure. Filter and evaporate the filtrate in vacuo to give 2-(N-t-butyloxycarbonylamino)-5-hydroxy-3-pentenoic acid, t-butyl ester.

reactant | 2-(N-t-butyloxycarbonylamino)-5-(O-benzyloxy)-3-pentenoic acid, t-butyl ester | 5.3 mmol, 2.0 g | C(C)(C)(C)OC(=O)NC(C(=O)OC(C)(C)C)C=CCOCC1=CC=CC=C1 | C21H31NO5
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium/carbon | 0.5 g | [Pd] | Pd
product | 2-(N-t-butyloxycarbonylamino)-5-hydroxy-3-pentenoic acid, t-butyl ester | C(C)(C)(C)OC(=O)NC(C(=O)OC(C)(C)C)C=CCO | C14H25NO5
